US06043242
27. [2-(1H-benzimidazol-2-ylsulfanylmethyl)-3-chloropyridin-4-yl]-methyl-[2-(3-nitroimidazo[1,2-b]pyridazin-6-yloxy)-ethyl]amine hydrochloride
A solution of 2-{[2-(1H-benzimidazol-2-ylsulfanylmethyl)-3-chloropyridin-4-yl]-methylamino}-ethanol (7.5 g, 21.5 mmol) in dimethylformamide (75 ml) is treated with sodium hydride (1.4 g 80% strength suspension) and stirred for 1 h at room temperature. Then 6-chloro-3-nitro-imidazo[1,2-b]pyridazine (4.3 g, 21.5 mmol) in tetrahydrofurane (50 ml) is added dropwise over a period of 20 min and stirring is continued for another 2 h. The solution is treated with water (750 ml) and extracted extensively with ethyl acetate. The combined organic extracts are washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue is chromatographed (silica, toluene/dioxane/ammonia 2:1:0.1) and crystallized from ethyl acetate. The crude product is dissolved in boiling 2-pronanol (250 ml) and treated with charcoal. After filtration and cooling to 35° C., a saturated solution of hydrogen chloride in diethyl ether (1.5 ml) is added and the mixture is cooled to 4° C. The precipitate is filtered, washed with 2-propanol and dried in vacuo to give the title compound as a faintly yellow solid, 3.6 g (31%). M.p. 211-2° C.

reactant | 2-{[2-(1H-benzimidazol-2-ylsulfanylmethyl)-3-chloropyridin-4-yl]-methylamino}-ethanol | 21.5 mmol, 7.5 g | N1C(=NC2=C1C=CC=C2)SCC2=NC=CC(=C2Cl)N(CCO)C | C16H17ClN4OS
reactant | sodium hydride | 1.4 g | [H-].[Na+]
reactant | 6-chloro-3-nitro-imidazo[1,2-b]pyridazine | 21.5 mmol, 4.3 g | ClC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C6H3ClN4O2
reactant | water | 750 ml | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
product | [2-(1H-benzimidazol-2-ylsulfanylmethyl)-3-chloropyridin-4-yl]-methyl-[2-(3-nitroimidazo[1,2-b]pyridazin-6-yloxy)-ethyl]amine hydrochloride | Cl.N1C(=NC2=C1C=CC=C2)SCC2=NC=CC(=C2Cl)N(CCOC=2C=CC=1N(N2)C(=CN1)[N+](=O)[O-])C | InChI=1S/C22H19ClN8O3S.ClH/c1-29(10-11-34-19-7-6-18-25-12-20(31(32)33)30(18)28-19)17-8-9-24-16(21(17)23)13-35-22-26-14-4-2-3-5-15(14)27-22;/h2-9,12H,10-11,13H2,1H3,(H,26,27);1H
